US07579351B2
(S)-8-Hydroxy-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
The suspension consistent of 3.50 g (11.4 mmol) (S)-8-benzyloxy-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one and 0.35 g palladium on activated charcoal (10% Pd; commercially available) in 40 mL methanol was hydrogenated at room temperature at 1.5 bar for 3 hours. The reaction mixture was filtered over dicalite speed plush (Aldrich) and the volatile components were evaporated at a rotary evaporator to give the desired compound as a light yellow foam (100%) which was used in the next step without further purification.

reactant | (S)-8-benzyloxy-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 11.4 mmol, 3.50 g | C(C1=CC=CC=C1)OC1=CC=2C=C3N(C2C=C1)[C@H](CNC3=O)C | C19H18N2O2
catalyst | palladium on activated charcoal | 0.35 g | [Pd] | Pd
solvent | methanol | 40 mL | CO | CH4O
product | (S)-8-Hydroxy-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 100% | OC1=CC=2C=C3N(C2C=C1)[C@H](CNC3=O)C | C12H12N2O2
